US08440689B2
C. tert-Butyl (1S,2R)-2-(4-(4-fluoro-3-methylphenylamino)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate
A mixture of methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-2-(4-fluoro-3-methylphenylamino)nicotinate (75 mg, 0.151 mmol) and platinum oxide (34.2 mg, 0.151 mmol) in DCM (2 mL) and HOAc (0.5 mL) was stirred at RT under H2 atmosphere. The mixture was subsequently filtered through Celite. The filtrate was concentrated and the residue was purified by preparative HPLC to give the title compound (50 mg, 70.6%). [M+H] calc'd for C25H32FN5O3, 470. found, 470.

reactant | methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-2-(4-fluoro-3-methylphenylamino)nicotinate | 0.151 mmol, 75 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=C(C=C1)F)C | C26H32FN5O4
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | HOAc | 0.5 mL | CC(=O)O | C2H4O2
catalyst | platinum oxide | 0.151 mmol, 34.2 mg | [Pt]=O
product | tert-Butyl (1S,2R)-2-(4-(4-fluoro-3-methylphenylamino)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 50 mg, 70.6% | FC1=C(C=C(C=C1)NC1=NC(=CC2=C1C(NC2)=O)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O)C | C25H32FN5O3
